### PR TITLE
add setC0 and setCT

### PR DESCRIPTION
**Pull request by affeldt-aist**
add setC0, setCK, setCT following remark by @vlj on gitter

setCK can also be found in PR#173

### CODE REVIEW

File: theories/classical_sets.v [hunk 1]
```diff
@@ -243,6 +243,14 @@ Proof. by move=> H K; rewrite funeqE=> s; rewrite propeqE; split=> [/H|/K]. Qed.
 Lemma sub0set T (X : set T) : set0 `<=` X.
 Proof. by []. Qed.
 
+Lemma setC0 T : ~` set0 = setT :> set T.
+Proof. by rewrite funeqE => t /=; rewrite propeqE; split => // _. Qed.
```
Comment (CohenCyril) [inline theories/classical_sets.v:247]:
```suggestion
Proof. by rewrite predeqE; split => ?. Qed.
```
